US04619931
A mixture of 24 parts of phenyl [4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]carbamate, 15.9 parts of ethyl N-butylglycine, 2 parts of N,N dimethyl-4-pyridinamine and 200 parts of 1,4-dioxane was stirred and refluxed overnight. Then water was added and stirring was continued for a while. The reaction mixture was cooled, poured onto water and the whole was stirred. The precipitated product was filtered off, washed with water and dissolved in 150 parts of trichloromethane. This solution was stirred for 30 minutes with 3 parts of silica gel. The latter was filtered off and the filtrate was evaporated. The residue was crystallized from butanol. The product was filtered off and dried in vacuo at 60° C., yielding 2.3 parts of 1-butyl-3-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-2,4-imidazolidinedione; mp. 183.7° C. (39).

reactant | phenyl [4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]carbamate | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C24H25N3O3
reactant | ethyl N-butylglycine | C(C)N(CC(=O)O)CCCC | C8H17NO2
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | N,N dimethyl-4-pyridinamine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | 1-butyl-3-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-2,4-imidazolidinedione | C(CCC)N1C(N(C(C1)=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC)=O | C24H30N4O3
